US06600038B1
A mixture of 5.3 g of 6-chloro-2,4-dibromoaniline and 3.5 g of 2-(2-bromo-1-methylethylidene)malononitrile was dissolved in a mixed solution of 10 ml of isopropanol and 10 ml of tetrahydrofuran. The reaction mixture was heated for 2 hours while being concentrated at 120° C. Water was poured into the reaction mixture. The reaction mixture was extracted with chloroform. The organic layer was ;washed with a saturated aqueous solution of sodium hydrogencarbonate and was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure and was allowed to stand for crystallization to yield 1.9 g of 2-amino-4-methyl-1-(2,4-dibromo-6-chlorophenyl)pyrrole-3-carbonitrile.

reactant | 6-chloro-2,4-dibromoaniline | 5.3 g | ClC1=CC(=CC(=C1N)Br)Br | C6H4Br2ClN
reactant | 2-(2-bromo-1-methylethylidene)malononitrile | 3.5 g | BrCC(C)=C(C#N)C#N | C6H5BrN2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-amino-4-methyl-1-(2,4-dibromo-6-chlorophenyl)pyrrole-3-carbonitrile | 1.9 g | NC=1N(C=C(C1C#N)C)C1=C(C=C(C=C1Cl)Br)Br | C12H8Br2ClN3
